US07981903B2
To a solution of 8-fluoro-5-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (7.6 g, 11.6 mmol) in tetrahydrofuran (350 mL) was added 27% ammonium hydroxide (500 mL). The resulting biphasic mixture, was rapidly stirred for 24 hours, at which time no starting material was evident by TLC/LCMS. Three such reactions were combined, diluted with EtOAc, and the organic layers washed with saturated sodium chloride, dried over sodium sulfate, and taken to a residue under reduced pressure to give 2-fluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (19.3 g, 28.7 mmol, 80% Yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.36 (s, 1 H), 8.04 (d, J=8.2 Hz, 1 H), 7.87-7.99 (m, 4 H), 7.79 (br. s., 2 H), 7.26-7.47 (m, 4 H), 6.87-7.06 (m, 1 H), 6.63 (d, J=2.4 Hz, 1 H), 6.47-6.58 (m, 2 H), 3.70-3.85 (m, 3 H), 3.05-3.19 (m, 4 H), 2.66 (quin, J=6.5 Hz, 1 H), 2.54-2.63 (m, 4 H), 2.32 (s, 3 H), 1.00 (d, J=6.6 Hz, 6 H). ESIMS (M+H)+=673.

reactant | 8-fluoro-5-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 11.6 mmol, 7.6 g | FC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3NC3=C(C=C(C=C3)N3CCN(CC3)C(C)C)OC)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C34H34FN7O4S
reactant | ammonium hydroxide | 500 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-fluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 28.7 mmol, 19.3 g, 80% Yield | FC1=C(C(=O)N)C(=CC=C1)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C34H37FN8O4S
